US07087755B1
The second step in the synthetic procedure used in synthesizing the 2,6-difluoropyridin-4-ylboronic acid involves bromination of 2,6-difluoro-4-hydrazinopyridine by elemental bromine to produce 4-bromo-2,6-difluoropyridine. This reaction can be depicted as follows:

reactant | 2,6-difluoropyridin-4-ylboronic acid | FC1=NC(=CC(=C1)B(O)O)F | C5H4BF2NO2
reactant | 2,6-difluoro-4-hydrazinopyridine | FC1=NC(=CC(=C1)NN)F | C5H5F2N3
reactant | bromine | BrBr | Br2
product | 4-bromo-2,6-difluoropyridine | BrC1=CC(=NC(=C1)F)F | C5H2BrF2N
